data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_157828_2,[C:1]1([H:11])([H:12])/[C:4](=[N:7]\[H:10])[N:2]([H:9])[C:3]([O:6][H:8])=[C:5]1[H:13]>>[C:1]1([H:11])([H:12])/[C:4](=[N:7]\[H:10])[C@@:5]1([C:3]([N:2][H:9])[O:6][H:8])[H:13],62.03966999998855
MR_1236_0,[C:1]([C:2]([O:3][H:6])=[O:5])([O:4][H:7])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[C:2]([O:3][H:6])([O:5][H:7])[O:4]1,52.88005250000069
MR_47858_0,[C:1]1([H:10])([H:11])[C:8]([N:6]([C:2]([H:13])([H:14])[H:15])[C:3]([H:12])([H:16])[H:17])([N:7]([C:4]([H:18])([H:19])[H:23])[C:5]([H:20])([H:21])[H:22])[O:9]1>>[C:1]([N:6]([C:2]([H:13])([H:14])[H:15])[C:3]([H:12])([H:16])[H:17])([C:8]([N:7]([C:4]([H:18])([H:19])[H:23])[C:5]([H:20])([H:21])[H:22])=[O:9])([H:10])[H:11],50.054420000036544
MR_230872_2,[C:1]1(/[C:4]([O:7][H:9])=[N:8]/[N:6]([H:12])[H:13])([N:5]([H:10])[H:11])[C:2]([H:14])([H:15])[C:3]1([H:16])[H:17]>>[C:1]1([N:5]([H:10])[H:11])=[C:4]([O:7][H:9])[N:8]([N:6]([H:12])[H:13])[C:3]([H:16])([H:17])[C:2]1([H:14])[H:15],48.97637500001181
MR_341316_2,[C:1]([C:7](/[C:3]([N:5]([H:10])[H:11])=[N:8]\[H:14])(/[C:4](=[N:2]/[H:9])[N:6]([H:12])[H:13])[H:15])([H:16])([H:17])[H:18]>>[C:1](/[C:7](=[C:4](\[N:2](/[C:3]([N:5]([H:10])[H:11])=[N:8]\[H:14])[H:9])[N:6]([H:12])[H:13])[H:15])([H:16])([H:17])[H:18],67.26297999999858
MR_368126_0,[C:1]([N:3](/[N:5]=[N:6]\[C:2]([H:11])([H:12])[H:13])[H:8])([O:4][H:7])([H:9])[H:10]>>[C:1]([O:4][H:7])([N:6]([C:2]([H:11])([H:12])[H:13])[N:5][N:3][H:8])([H:9])[H:10],55.64858249996632
MR_307176_1,[C:1]1([C:3]([H:15])([H:16])[H:17])([O:7][H:10])[C:4]2([C:2]([H:12])([H:13])[C:6]([H:14])=[C:5]2[O:8][H:11])[O:9]1>>[C:1]1([C:3]([H:15])([H:16])[H:17])([O:7][H:10])[C:2]([H:12])([H:13])[C:6]([H:14])=[C:5]([O:8][H:11])[C:4]1=[O:9],26.630472500001048
MR_431486_0,[C:1](=[C:4]([H:11])[H:12])([O:5][H:7])/[N:6]=[C:3](\[N:2]([H:8])[H:9])[H:10]>>[C:1]1([O:5][H:7])=[N:6][C@:3]([N:2]([H:8])[H:9])([H:10])[C:4]1([H:11])[H:12],45.785537500006654
MR_41707_0,[C:1]([C:2]([H:15])([H:16])[H:17])([C:4]([O:8][H:10])=[O:9])(/[C:5]([N:6]([H:12])[H:13])=[C:7](\[C:3]([H:18])([H:19])[H:20])[H:14])[H:11]>>[C:1](\[C:2]([H:15])([H:16])[H:17])(=[C:5](/[N:6]([H:12])[H:13])[C:7]([C:3]([H:18])([H:19])[H:20])([C:4]([O:8][H:10])=[O:9])[H:14])[H:11],66.90718750000514
MR_530577_0,[C:1]([C:3](=[C:2]([N:5]([H:11])[H:12])[N:6]([H:13])[H:14])[N:7]([H:15])[H:16])([C:4]([C:8](=[O:10])[H:17])=[C:9]([H:20])[H:21])([H:18])[H:19]>>[C:1]1([H:18])([H:19])[C:3]([C:2]([N:5]([H:11])[H:12])([N:6]([H:13])[H:14])[C:8](=[O:10])[H:17])([N:7]([H:15])[H:16])[C:4]1=[C:9]([H:20])[H:21],67.6219099999841
MR_153111_1,[C:1]([C:2](/[C:6]([C:5]([C:3]([H:16])([H:17])[H:18])=[O:9])=[N:8]/[H:13])([H:14])[H:15])([C:4]([H:19])([H:20])[H:21])([N:7]([H:11])[H:12])[H:10]>>[C:1](\[C:2](/[C:6]([C:5]([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])[O:9][H:12])=[N:8]/[H:13])([H:14])[H:15])(=[N:7]/[H:11])[H:10],66.76098000001758
MR_181672_0,[C:1]([C:4]([C:8]([C:2]([H:18])([H:19])[H:20])(/[C:5](=[N:3]/[N:6]([H:10])[H:11])[N:7]([H:12])[H:13])[H:14])=[O:9])([H:15])([H:16])[H:17]>>[C:1]([C:4]([N:3](/[C:5]([N:7]([H:12])[H:13])=[C:8](\[C:2]([H:18])([H:19])[H:20])[H:14])[N:6]([H:10])[H:11])=[O:9])([H:15])([H:16])[H:17],41.23553500000881
MR_203320_1,[C@:1]1([O:7][H:9])([H:11])[C@@:2]([C:3]([H:13])([H:14])[H:15])([H:12])[C:5]([O:8][H:10])[C:6]1[C:4]([H:16])([H:17])[H:18]>>[C:1](=[C:6]([C:4]([H:16])([H:17])[H:18])/[C:5](=[C:2](/[C:3]([H:13])([H:14])[H:15])[H:12])[O:8][H:10])(\[O:7][H:9])[H:11],23.009797500011047
MR_167124_0,[C:1](/[N:7]=[C:3]([C:2]([H:14])([H:15])[H:16])\[C:5](=[C:4](/[O:6][H:8])[H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:7]1[C:3]([C:2]([H:14])([H:15])[H:16])=[C:5]([H:10])[C:4]1([O:6][H:8])[H:9])([H:11])([H:12])[H:13],61.67823000000936
MR_196771_0,[C:1]1([C:2]([H:14])([H:15])[H:16])([H:9])[C:5]2([H:12])[C:4](=[N:8]\[H:11])/[C:3](=[N:7]\[H:10])[C:6]12[H:13]>>[C:1]1([C:2]([H:14])([H:15])[H:16])([H:9])[C:3](=[N:7]/[H:10])/[C:4](=[N:8]/[H:11])[C:5]([H:12])=[C:6]1[H:13],54.23482500000446
MR_228167_1,[C:1](/[C:4]([N:3](/[C:5](=[C:6](\[C:2]([H:16])([H:17])[H:18])[H:12])[H:11])[O:7][H:9])=[N:8]\[H:10])([H:13])([H:14])[H:15]>>[C:1](/[C:4]([C:6]([C:2]([H:16])([H:17])[H:18])(/[C:5](=[N:3]/[O:7][H:9])[H:11])[H:12])=[N:8]\[H:10])([H:13])([H:14])[H:15],55.21748999998465
MR_326003_1,[C:1](/[C:4](=[C:3](\[N:2]([H:8])[H:9])[H:12])[H:13])([O:5][O:6][H:7])([H:10])[H:11]>>[C:1](=[C:4]([C@:3]([N:2]([H:8])[H:9])([O:5][O:6][H:7])[H:12])[H:13])([H:10])[H:11],45.7993424999718
MR_672099_1,[C:1]([C:3]([C:2]([H:12])([H:13])[H:14])([N:4]([H:10])[H:11])[O:7][H:9])([O:5][H:8])=[O:6]>>[C:1]([C:3]([C:2]([H:12])([H:13])[H:14])=[O:7])([N:4]([H:10])[H:11])([O:5][H:8])[O:6][H:9],41.71557250000959
MR_26239_0,[C:1]1([N:4]([H:7])[H:8])([H:6])[C:2]([H:9])([H:10])[N:3]1[H:5]>>[C:1]1([N:4]([H:7])[H:8])([H:10])[C:2]([H:6])([H:9])[N:3]1[H:5],65.50158750000485
